US08283855B2
Step 1: Synthesis Method of 3-(4-bromophenyl)-9-phenyl-9H-carbazole
In addition, while an Rf value of the 1,4-bis(9-phenyl-9H-carbazol-3-yl)benzene, which was a by-product, (developing solvent, ethyl acetate:hexane=1:10) was 0.23, spots were slightly observed on the TLC in the reaction suspension. As a result, it was determined that since the iodine moiety had higher reactivity than that of the bromo moiety in 4-bromoiodobenzene which was a dihalide and was used for the raw material, the 4-bromoiodobenzene was selectively (preferentially) reacted with the 9-phenyl-9H-carbazol-3-boronic acid which was a boron compound (that is, the dihalide and the boron compound was able to be reacted almost at 1:1). Furthermore, since the Rf value of the intended product is sufficiently far from the Rf value of the by-product, the intended product and the by-product was able be easily separated in the column purification.

reactant | 1,4-bis(9-phenyl-9H-carbazol-3-yl)benzene | C1(=CC=CC=C1)N1C2=CC=CC=C2C=2C=C(C=CC12)C1=CC=C(C=C1)C=1C=CC=2N(C3=CC=CC=C3C2C1)C1=CC=CC=C1 | C42H28N2
reactant | iodine | II | I2
reactant | 9-phenyl-9H-carbazol-3-boronic acid | C1(=CC=CC=C1)N1C2=CC=CC=C2C=2C=C(C=CC12)B(O)O | C18H14BNO2
reactant | boron | [B] | B
reactant | 4-bromoiodobenzene | BrC1=CC=C(C=C1)I | C6H4BrI
solvent | hexane | CCCCCC | C6H14
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-(4-bromophenyl)-9-phenyl-9H-carbazole | BrC1=CC=C(C=C1)C=1C=CC=2N(C3=CC=CC=C3C2C1)C1=CC=CC=C1 | C24H16BrN
